### PR TITLE
[Merged by Bors] - Feat: add various result about the norm, relative to `ℤ`, of `ζ - 1`.

### PR DESCRIPTION
**Pull request by riccardobrasca**
We add various result about the norm, relative to `ℤ`, of `ζ - 1`. These results already exist for the norm relative to `ℚ`.

From the flt3 project at LFTCM2024.

- [x] depends on: #12386

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 1]
```diff
@@ -344,6 +344,91 @@ theorem subOneIntegralPowerBasis'_gen_prime [IsCyclotomicExtension {p} ℚ K]
     (hζ : IsPrimitiveRoot ζ ↑p) :
     Prime hζ.subOneIntegralPowerBasis'.gen := by simpa using hζ.zeta_sub_one_prime'
 
+open nonZeroDivisors in
+/-- The norm, relative to `ℤ`, of `ζ ^ p ^ s - 1` in a `p ^ (k + 1)`-th cyclotomic extension of `ℚ`
+is p ^ p ^ s` if `s ≤ k` and `p ^ (k - s + 1) ≠ 2`. -/
+lemma toInteger_pow_sub_one_norm_prime_pow_ne_two [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:350]: I think the name should be more like `norm_toInteger_pow_sub_one_of_prime_pow_ne_two` (and similarly for the others and the already existing ones).

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/Rat.lean]: Done, thanks.

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 2]
```diff
@@ -344,6 +344,91 @@ theorem subOneIntegralPowerBasis'_gen_prime [IsCyclotomicExtension {p} ℚ K]
...
+is p ^ p ^ s` if `s ≤ k` and `p ^ (k - s + 1) ≠ 2`. -/
+lemma norm_toInteger_pow_sub_one_of_prime_pow_ne_two [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
+    (hζ : IsPrimitiveRoot ζ ↑(p ^ (k + 1))) {s : ℕ} (hs : s ≤ k) (htwo : p ^ (k - s + 1) ≠ 2) :
+    Algebra.norm ℤ (hζ.toInteger ^ (p : ℕ) ^ s - 1) = p ^ (p : ℕ) ^ s := by
+  apply (algebraMap ℤ ℚ).injective_int
+  have : NumberField K := IsCyclotomicExtension.numberField {p ^ (k + 1)} ℚ K
+  have : algebraMap (𝓞 K) K (hζ.toInteger ^ (p : ℕ) ^ s - 1) = ζ ^ (p : ℕ) ^ s - 1 := by
+    simp only [map_sub, map_pow, map_one, sub_left_inj]
+    exact rfl
+  rw [← Algebra.norm_localization (Sₘ := K) ℤ ℤ⁰, this, hζ.pow_sub_one_norm_prime_pow_ne_two
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:358]: This still leaves `IsPrimitiveRoot.pow_sub_one_norm_prime_pow_ne_two` and friends, which should also be changed to `IsPrimitiveRoot.norm_pow_sub_one_of_prime_pow_ne_two` etc.

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 3]
```diff
@@ -344,6 +344,91 @@ theorem subOneIntegralPowerBasis'_gen_prime [IsCyclotomicExtension {p} ℚ K]
     (hζ : IsPrimitiveRoot ζ ↑p) :
     Prime hζ.subOneIntegralPowerBasis'.gen := by simpa using hζ.zeta_sub_one_prime'
 
+open nonZeroDivisors in
+/-- The norm, relative to `ℤ`, of `ζ ^ p ^ s - 1` in a `p ^ (k + 1)`-th cyclotomic extension of `ℚ`
+is p ^ p ^ s` if `s ≤ k` and `p ^ (k - s + 1) ≠ 2`. -/
+lemma norm_toInteger_pow_sub_one_of_prime_pow_ne_two [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:350]: Using
```lean
set_option profiler true
set_option profiler.threshold 50
```
I see
```
typeclass inference of Algebra took 84.9ms
typeclass inference of Finite took 74.7ms
typeclass inference of NonUnitalSemiring took 52.3ms
typeclass inference of AddMonoidHomClass took 271ms
typeclass inference of MonoidHomClass took 151ms
typeclass inference of Algebra took 82.1ms
typeclass inference of Algebra took 59.8ms
typeclass inference of Module.Finite took 298ms
tactic execution of Lean.Parser.Tactic.rewriteSeq took 87.1ms
type checking took 71.2ms
```
See also below for some of the other declarations.
Maybe adding a few carefully chosen private local instances can speed up the file by quite a bit?
See [here](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/defLemma.20and.20docBlame.20linters.20on.20local.20instances.20in.20sections/near/433829610) for how to avoid triggering the linters.

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 4]
```diff
@@ -344,6 +344,91 @@ theorem subOneIntegralPowerBasis'_gen_prime [IsCyclotomicExtension {p} ℚ K]
...
+  have : algebraMap (𝓞 K) K (hζ.toInteger ^ 2 ^ k - 1) = ζ ^ (2 : ℕ) ^ k - 1 := by
+    simp only [map_sub, map_pow, map_one, sub_left_inj]
+    exact rfl
+  rw [← Algebra.norm_localization (Sₘ := K) ℤ ℤ⁰, this, hζ.norm_pow_sub_one_of_eq_two
+    (cyclotomic.irreducible_rat (pow_pos (by decide) _))]
+  simp
+
+/-- The norm, relative to `ℤ`, of `ζ ^ p ^ s - 1` in a `p ^ (k + 1)`-th cyclotomic extension of `ℚ`
+is `p ^ p ^ s` if `s ≤ k` and `p ≠ 2`. -/
+lemma norm_toInteger_pow_sub_one_of_prime_ne_two [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:379]:
```
typeclass inference of Algebra took 98.2ms
```

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 5]
```diff
@@ -344,6 +344,91 @@ theorem subOneIntegralPowerBasis'_gen_prime [IsCyclotomicExtension {p} ℚ K]
...
+    Algebra.norm ℤ (hζ.toInteger ^ (p : ℕ) ^ s - 1) = p ^ (p : ℕ) ^ s := by
+  have coe_two : ((2 : ℕ+) : ℕ) = 2 := by norm_cast
+  refine hζ.norm_toInteger_pow_sub_one_of_prime_pow_ne_two hs (fun h ↦ ?_)
+  rw [← PNat.coe_inj, coe_two, PNat.pow_coe, ← pow_one 2] at h
+  exact hodd (PNat.coe_injective (by simp [eq_of_prime_pow_eq
+    (Nat.prime_iff.1 hp.out) (Nat.prime_iff.1 Nat.prime_two) (k - s).succ_pos h]))
+
+/-- The norm, relative to `ℤ`, of `ζ - 1` in a `p ^ (k + 1)`-th cyclotomic extension of `ℚ` is
+`p` if `p ≠ 2`. -/
+lemma norm_toInteger_sub_one_of_prime_ne_two [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:390]:
```
typeclass inference of Algebra took 94.4ms
typeclass inference of AddGroup took 51.7ms
typeclass inference of NonUnitalSemiring took 56.5ms
typeclass inference of AddMonoidHomClass took 282ms
simp took 87.1ms
simp took 168ms
``

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 6]
```diff
@@ -344,6 +344,91 @@ theorem subOneIntegralPowerBasis'_gen_prime [IsCyclotomicExtension {p} ℚ K]
...
+    (hζ : IsPrimitiveRoot ζ ↑(p ^ (k + 1))) (hodd : p ≠ 2) :
+    Algebra.norm ℤ (hζ.toInteger - 1) = p := by
+  simpa using hζ.norm_toInteger_pow_sub_one_of_prime_ne_two (Nat.zero_le _) hodd
+
+/-- The norm, relative to `ℤ`, of `ζ - 1` in a `p`-th cyclotomic extension of `ℚ` is `p` if
+`p ≠ 2`. -/
+lemma norm_toInteger_sub_one_of_prime_ne_two' [hcycl : IsCyclotomicExtension {p} ℚ K]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:397]:
```
typeclass inference of Algebra took 81.6ms
```

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 7]
```diff
@@ -344,6 +344,91 @@ theorem subOneIntegralPowerBasis'_gen_prime [IsCyclotomicExtension {p} ℚ K]
...
+    (hζ : IsPrimitiveRoot ζ p) (h : p ≠ 2) : Algebra.norm ℤ (hζ.toInteger - 1) = p := by
+  have : IsCyclotomicExtension {p ^ (0 + 1)} ℚ K := by simpa using hcycl
+  replace hζ : IsPrimitiveRoot ζ (p ^ (0 + 1)) := by simpa using hζ
+  exact hζ.norm_toInteger_sub_one_of_prime_ne_two h
+
+/-- The norm, relative to `ℤ`, of `ζ - 1` in a `p ^ (k + 1)`-th cyclotomic extension of `ℚ` is
+a prime if `p ^ (k  + 1) ≠ 2`. -/
+lemma prime_norm_toInteger_sub_one_of_prime_pow_ne_two [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:405]:
```
typeclass inference of Algebra took 79.1ms
```

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 8]
```diff
@@ -344,6 +344,91 @@ theorem subOneIntegralPowerBasis'_gen_prime [IsCyclotomicExtension {p} ℚ K]
...
+    (hζ : IsPrimitiveRoot ζ ↑(p ^ (k + 1))) (htwo : p ^ (k  + 1) ≠ 2) :
+    Prime (Algebra.norm ℤ (hζ.toInteger - 1)) := by
+  have := hζ.norm_toInteger_pow_sub_one_of_prime_pow_ne_two (zero_le _) htwo
+  simp only [pow_zero, pow_one] at this
+  rw [this]
+  exact Nat.prime_iff_prime_int.1 hp.out
+
+/-- The norm, relative to `ℤ`, of `ζ - 1` in a `p ^ (k + 1)`-th cyclotomic extension of `ℚ` is
+a prime if `p ≠ 2`. -/
+lemma prime_norm_toInteger_sub_one_of_prime_ne_two [hcycl : IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:415]:
```
typeclass inference of Algebra took 84.1ms
```

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 9]
```diff
@@ -344,6 +344,91 @@ theorem subOneIntegralPowerBasis'_gen_prime [IsCyclotomicExtension {p} ℚ K]
...
+    (hζ : IsPrimitiveRoot ζ ↑(p ^ (k + 1))) (hodd : p ≠ 2) :
+    Prime (Algebra.norm ℤ (hζ.toInteger - 1)) := by
+  have := hζ.norm_toInteger_sub_one_of_prime_ne_two hodd
+  simp only [pow_zero, pow_one] at this
+  rw [this]
+  exact Nat.prime_iff_prime_int.1 hp.out
+
+/-- The norm, relative to `ℤ`, of `ζ - 1` in a `p`-th cyclotomic extension of `ℚ` is a prime if
+`p ≠ 2`. -/
+lemma prime_norm_toInteger_sub_one_of_prime_ne_two' [hcycl : IsCyclotomicExtension {p} ℚ K]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:425]:
```
typeclass inference of Algebra took 79.8ms
```

**Comment by MichaelStollBayreuth** [comment]
The new stuff in `Mathlib.NumberTheory.Cyclotomic.Rat` alone needs > 5 seconds for typeclass inference.

**Comment by riccardobrasca** [comment]
@erdOne what happened to your work to speed up ring of integers?

**Comment by riccardobrasca** [comment]
@MichaelStollBayreuth in [6bdb8f3](https://github.com/leanprover-community/mathlib4/pull/11792/commits/6bdb8f3ddc83a6f86df9f8df984614a82ff7c506) I've added a couple of instances to speed up the file, but is this really what you are proposing? I can of course keep going and help Lean everywhere, but it seems a little arbitrary to me.

In principle we can do this everywhere... do you think this file is particularly slow? It doesn't seem to me, but I can be wrong.

**Comment by MichaelStollBayreuth** [comment]
@riccardobrasca This file takes about half a minute to compile on my machine (I took the version from your branch). It is in the top 120 slow files (by "instructions") within Mathlib. So there are many slower files, but it is still among the slow ones.
Adding the following instances:
```lean
@[local instance] private def instAlg : Algebra ℤ (adjoin ℤ ({ζ} : Set K)) :=
  Subalgebra.algebra (adjoin ℤ {ζ})
@[local instance] private def instAlg' : Algebra (adjoin ℤ ({ζ} : Set K)) K :=
  Subalgebra.toAlgebra (adjoin ℤ {ζ})
@[local instance] private def instFinite : Finite ({p ^ k} : Set ℕ+) := Finite.of_fintype _
@[local instance] private def instNontrivial_K : Nontrivial K := ⟨0, 1, zero_ne_one⟩
@[local instance] private noncomputable def instModule_cyc :
    Module (CyclotomicRing (p ^ k) ℤ ℚ) (CyclotomicField (p ^ k) ℚ) := toModule
@[local instance] private def instAlg'' : Algebra ℤ (𝓞 K) := Subalgebra.algebra (𝓞 K)
@[local instance] private def instAlg''' : Algebra (𝓞 K) K := Subalgebra.toAlgebra _
@[local instance] private lemma instPID_Int : IsPrincipalIdealRing ℤ :=
  EuclideanDomain.to_principal_ideal_domain
@[local instance] private lemma instIntegrallyClosed_Int : IsIntegrallyClosed ℤ :=
  UniqueFactorizationMonoid.instIsIntegrallyClosed
@[local instance] private def instAddCommGroup [NumberField K] : AddCommGroup ↥(𝓞 K) :=
  Ring.toAddCommGroup
@[local instance] private def instModFin [NumberField K] : Module.Finite ℤ ↥(𝓞 K) :=
  Module.IsNoetherian.finite ℤ ↥(𝓞 K)
@[local instance] private def instAMHC : AddMonoidHomClass (↥(𝓞 K) →+* K) (↥(𝓞 K)) K :=
  RingHomClass.toAddMonoidHomClass
@[local instance] private def instMHC : MonoidHomClass (↥(𝓞 K) →+* K) (↥(𝓞 K)) K :=
  RingHomClass.toMonoidHomClass
```
(in line 37, after the `variable` statement and before `namespace IsCyclotomicExtension.Rat`) and squeezing most `simp(a)`s (some of which also cause unnecessary slow instance searches) cuts it down by a factor of about 2 (typeclass inference goes down from 25.1 s to 10.8 s). If we could do this with all the slow files with similar effect, Mathlib would compile quite a bit faster...

There are also a few slow `convert`s (the first one in `absdiscr_prime_pow` takes more than half a second).

It is probably a good idea to have a broader discussion about this on Zulip...

**Comment by riccardobrasca** [comment]
> @riccardobrasca This file takes about half a minute to compile on my machine (I took the version from your branch). It is in the top 120 slow files (by "instructions") within Mathlib. So there are many slower files, but it is still among the slow ones. Adding the following instances:
> 
> ```lean
> @[local instance] private def instAlg : Algebra ℤ (adjoin ℤ ({ζ} : Set K)) :=
>   Subalgebra.algebra (adjoin ℤ {ζ})
> @[local instance] private def instAlg' : Algebra (adjoin ℤ ({ζ} : Set K)) K :=
>   Subalgebra.toAlgebra (adjoin ℤ {ζ})
> @[local instance] private def instFinite : Finite ({p ^ k} : Set ℕ+) := Finite.of_fintype _
> @[local instance] private def instNontrivial_K : Nontrivial K := ⟨0, 1, zero_ne_one⟩
> @[local instance] private noncomputable def instModule_cyc :
>     Module (CyclotomicRing (p ^ k) ℤ ℚ) (CyclotomicField (p ^ k) ℚ) := toModule
> @[local instance] private def instAlg'' : Algebra ℤ (𝓞 K) := Subalgebra.algebra (𝓞 K)
> @[local instance] private def instAlg''' : Algebra (𝓞 K) K := Subalgebra.toAlgebra _
> @[local instance] private lemma instPID_Int : IsPrincipalIdealRing ℤ :=
>   EuclideanDomain.to_principal_ideal_domain
> @[local instance] private lemma instIntegrallyClosed_Int : IsIntegrallyClosed ℤ :=
>   UniqueFactorizationMonoid.instIsIntegrallyClosed
> @[local instance] private def instAddCommGroup [NumberField K] : AddCommGroup ↥(𝓞 K) :=
>   Ring.toAddCommGroup
> @[local instance] private def instModFin [NumberField K] : Module.Finite ℤ ↥(𝓞 K) :=
>   Module.IsNoetherian.finite ℤ ↥(𝓞 K)
> @[local instance] private def instAMHC : AddMonoidHomClass (↥(𝓞 K) →+* K) (↥(𝓞 K)) K :=
>   RingHomClass.toAddMonoidHomClass
> @[local instance] private def instMHC : MonoidHomClass (↥(𝓞 K) →+* K) (↥(𝓞 K)) K :=
>   RingHomClass.toMonoidHomClass
> ```
> 
> (in line 35, after the `variable` statement and before `namespace IsCyclotomicExtension.Rat`) and squeezing most `simp(a)`s (some of which also cause unnecessary slow instance searches) cuts it down by a factor of about 2 (typeclass inference goes down from 25.1 s to 10.8 s). If we could do this with all the slow files with similar effect, Mathlib would compile quite a bit faster...
> 
> There are also a few slow `convert`s (the first one in `absdiscr_prime_pow` takes more than half a second).
> 
> It is probably a good idea to have a broader discussion about this on Zulip...

These surely help, thanks.

I agree that a general discussion on zulip would be better, for example we can maybe have a linter looking for slow simp/convert or whatever, and decide a global limit over which doing manual intervention.

**Comment by Vierkantor** [comment]
TODO: check if merging the branch [RingOfInteger_Type](https://github.com/leanprover-community/mathlib4/tree/RingOfInteger_Type) speeds up this PR.

**Comment by riccardobrasca** [comment]
With the new definition of the ring of integers, this is ready for review again.

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 10]
```diff
@@ -461,47 +461,47 @@ theorem pow_sub_one_norm_prime_pow_ne_two {k s : ℕ} (hζ : IsPrimitiveRoot ζ
...
-  simpa using sub_one_norm_prime_ne_two hζ hirr h
-#align is_primitive_root.sub_one_norm_prime IsPrimitiveRoot.sub_one_norm_prime
+  simpa using norm_sub_one_of_prime_ne_two hζ hirr h
+#align is_primitive_root.sub_one_norm_prime IsPrimitiveRoot.norm_sub_one_of_prime_ne_two'
 
 /-- If `Irreducible (cyclotomic (2 ^ (k + 1)) K)` (in particular for `K = ℚ`), then the norm of
 `ζ ^ (2 ^ k) - 1` is `(-2) ^ (2 ^ k)`. -/
 -- Porting note: writing `(2 : ℕ+)` was not needed (similarly everywhere).
-theorem pow_sub_one_norm_two {k : ℕ} (hζ : IsPrimitiveRoot ζ (2 ^ (k + 1)))
+theorem norm_pow_sub_one_of_eq_two {k : ℕ} (hζ : IsPrimitiveRoot ζ (2 ^ (k + 1)))
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:504]: I guess this is for consistency with the `prime_ne_two` names, but `of_eq_two` doesn't really make sense

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 11]
```diff
@@ -535,11 +535,11 @@ theorem sub_one_norm_two {k : ℕ} (hζ : IsPrimitiveRoot ζ (2 ^ k)) (hk : 2 
   obtain ⟨k₁, hk₁⟩ := exists_eq_succ_of_ne_zero (lt_of_lt_of_le zero_lt_two hk).ne.symm
 -- Porting note: the proof is slightly different because of coercions.
   simpa [hk₁, show ((2 : ℕ+) : ℕ) = 2 from rfl] using sub_one_norm_eq_eval_cyclotomic hζ this hirr
-#align is_primitive_root.sub_one_norm_two IsPrimitiveRoot.sub_one_norm_two
+#align is_primitive_root.sub_one_norm_two IsPrimitiveRoot.norm_sub_one_of_eq_two
 
 /-- If `Irreducible (cyclotomic (p ^ (k + 1)) K)` (in particular for `K = ℚ`) and `p` is a prime,
 then the norm of `ζ ^ (p ^ s) - 1` is `p ^ (p ^ s)` if `k ≠ 0` and `s ≤ k`. -/
-theorem pow_sub_one_norm_prime_pow_of_ne_zero {k s : ℕ} (hζ : IsPrimitiveRoot ζ ↑(p ^ (k + 1)))
+theorem norm_pow_sub_one_prime_pow_of_ne_zero {k s : ℕ} (hζ : IsPrimitiveRoot ζ ↑(p ^ (k + 1)))
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:542]: Should this be `norm_pow_sub_one_eq_prime_pow_of_ne_zero`?

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 12]
```diff
@@ -584,47 +584,75 @@ theorem norm_zeta_eq_one [IsCyclotomicExtension {n} K L] (hn : n ≠ 2)
...
+  (zeta_spec _ K L).norm_sub_one_of_prime_ne_two' hirr h
+#align is_cyclotomic_extension.prime_ne_two_norm_zeta_sub_one IsCyclotomicExtension.norm_zeta_sub_one_of_prime_ne_two
 
 /-- If `Irreducible (cyclotomic (2 ^ k) K)` (in particular for `K = ℚ`) and `k` is at least `2`,
 then the norm of `zeta (2 ^ k) K L - 1` is `2`. -/
-theorem two_pow_norm_zeta_sub_one {k : ℕ} (hk : 2 ≤ k) [IsCyclotomicExtension {(2 : ℕ+) ^ k} K L]
-    (hirr : Irreducible (cyclotomic (2 ^ k) K)) : norm K (zeta ((2 : ℕ+) ^ k) K L - 1) = 2 :=
-  sub_one_norm_two (zeta_spec ((2 : ℕ+) ^ k) K L) hk hirr
-#align is_cyclotomic_extension.two_pow_norm_zeta_sub_one IsCyclotomicExtension.two_pow_norm_zeta_sub_one
+theorem norm_zeta_pow_sub_one_of_eq_two {k : ℕ} (hk : 2 ≤ k)
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:623]: Same comment about `of_eq_two`

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 13]
```diff
@@ -331,16 +332,105 @@ theorem zeta_sub_one_prime [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
...
-  convert zeta_sub_one_prime (k := 0) (by simpa)
-  simpa
+  convert zeta_sub_one_prime (k := 0) (by simpa only [zero_add, pow_one])
+  simpa only [zero_add, pow_one]
 
 theorem subOneIntegralPowerBasis_gen_prime [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
     (hζ : IsPrimitiveRoot ζ ↑(p ^ (k + 1))) :
-    Prime hζ.subOneIntegralPowerBasis.gen := by simpa using hζ.zeta_sub_one_prime
+    Prime hζ.subOneIntegralPowerBasis.gen := by simpa only [subOneIntegralPowerBasis_gen] using
+      hζ.zeta_sub_one_prime
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:341]: If you're going to split the line, I suggest
```suggestion
    Prime hζ.subOneIntegralPowerBasis.gen := by
  simpa only [subOneIntegralPowerBasis_gen] using hζ.zeta_sub_one_prime
```

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 14]
```diff
@@ -331,16 +332,105 @@ theorem zeta_sub_one_prime [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
...
 
 theorem subOneIntegralPowerBasis'_gen_prime [IsCyclotomicExtension {p} ℚ K]
     (hζ : IsPrimitiveRoot ζ ↑p) :
-    Prime hζ.subOneIntegralPowerBasis'.gen := by simpa using hζ.zeta_sub_one_prime'
+    Prime hζ.subOneIntegralPowerBasis'.gen := by simpa only [subOneIntegralPowerBasis'_gen] using
+      hζ.zeta_sub_one_prime'
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:346]:
```suggestion
    Prime hζ.subOneIntegralPowerBasis'.gen := by
  simpa only [subOneIntegralPowerBasis'_gen] using hζ.zeta_sub_one_prime'
```

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 15]
```diff
@@ -331,16 +332,105 @@ theorem zeta_sub_one_prime [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
...
+/-- The norm, relative to `ℤ`, of `ζ ^ p ^ s - 1` in a `p ^ (k + 1)`-th cyclotomic extension of `ℚ`
+is p ^ p ^ s` if `s ≤ k` and `p ^ (k - s + 1) ≠ 2`. -/
+lemma norm_toInteger_pow_sub_one_of_prime_pow_ne_two [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
+    (hζ : IsPrimitiveRoot ζ ↑(p ^ (k + 1))) {s : ℕ} (hs : s ≤ k) (htwo : p ^ (k - s + 1) ≠ 2) :
+    Algebra.norm ℤ (hζ.toInteger ^ (p : ℕ) ^ s - 1) = p ^ (p : ℕ) ^ s := by
+  apply (algebraMap ℤ ℚ).injective_int
+  have : NumberField K := IsCyclotomicExtension.numberField {p ^ (k + 1)} ℚ K
+  have : algebraMap (𝓞 K) K (hζ.toInteger ^ (p : ℕ) ^ s - 1) = ζ ^ (p : ℕ) ^ s - 1 := by
+    simp only [map_sub, map_pow, map_one, sub_left_inj]
+    exact rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:358]:
```suggestion
    simp only [map_sub, map_pow, map_one, sub_left_inj, RingOfIntegers.map_mk]
```

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 16]
```diff
@@ -331,16 +332,105 @@ theorem zeta_sub_one_prime [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
...
+  rw [← Algebra.norm_localization (Sₘ := K) ℤ ℤ⁰, this, hζ.norm_pow_sub_one_of_prime_pow_ne_two
+    (cyclotomic.irreducible_rat
+    (by simp only [PNat.pow_coe, gt_iff_lt, PNat.pos, pow_pos])) hs htwo]
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:361]: This seems a little clearer to me; alternatively you could move the `norm_pow_sub_one_of_prime_pow_ne_two` call into a separate `have` as well
```suggestion
  rw [← Algebra.norm_localization (Sₘ := K) ℤ ℤ⁰, this,
    hζ.norm_pow_sub_one_of_prime_pow_ne_two
      (cyclotomic.irreducible_rat (by simp only [PNat.pow_coe, gt_iff_lt, PNat.pos, pow_pos]))
      hs htwo]
```

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 17]
```diff
@@ -331,16 +332,105 @@ theorem zeta_sub_one_prime [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
...
+/-- The norm, relative to `ℤ`, of `ζ ^ 2 ^ k - 1` in a `2 ^ (k + 1)`-th cyclotomic extension of `ℚ`
+is `(-2) ^ 2 ^ k`. -/
+lemma norm_toInteger_pow_sub_one_of_two [IsCyclotomicExtension {2 ^ (k + 1)} ℚ K]
+    (hζ : IsPrimitiveRoot ζ ↑((2 : ℕ+) ^ (k + 1))) :
+    Algebra.norm ℤ (hζ.toInteger ^ 2 ^ k - 1) = (-2) ^ (2 : ℕ) ^ k := by
+  apply (algebraMap ℤ ℚ).injective_int
+  have : NumberField K := IsCyclotomicExtension.numberField {2 ^ (k + 1)} ℚ K
+  have : algebraMap (𝓞 K) K (hζ.toInteger ^ 2 ^ k - 1) = ζ ^ (2 : ℕ) ^ k - 1 := by
+    simp only [map_sub, map_pow, map_one, sub_left_inj]
+    exact rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:374]:
```suggestion
    simp only [map_sub, map_pow, map_one, sub_left_inj, RingOfIntegers.map_mk]
```

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 18]
```diff
@@ -331,16 +332,105 @@ theorem zeta_sub_one_prime [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
...
+  rw [← Algebra.norm_localization (Sₘ := K) ℤ ℤ⁰, this, hζ.norm_pow_sub_one_of_eq_two
+    (cyclotomic.irreducible_rat (pow_pos (by decide) _))]
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:376]:
```suggestion
  rw [← Algebra.norm_localization (Sₘ := K) ℤ ℤ⁰, this,
    hζ.norm_pow_sub_one_of_eq_two (cyclotomic.irreducible_rat (pow_pos (by decide) _))]
```

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 19]
```diff
@@ -331,16 +332,105 @@ theorem zeta_sub_one_prime [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
...
+/-- The norm, relative to `ℤ`, of `ζ ^ p ^ s - 1` in a `p ^ (k + 1)`-th cyclotomic extension of `ℚ`
+is `p ^ p ^ s` if `s ≤ k` and `p ≠ 2`. -/
+lemma norm_toInteger_pow_sub_one_of_prime_ne_two [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
+    (hζ : IsPrimitiveRoot ζ ↑(p ^ (k + 1))) {s : ℕ} (hs : s ≤ k) (hodd : p ≠ 2) :
+    Algebra.norm ℤ (hζ.toInteger ^ (p : ℕ) ^ s - 1) = p ^ (p : ℕ) ^ s := by
+  have coe_two : ((2 : ℕ+) : ℕ) = 2 := by norm_cast
+  refine hζ.norm_toInteger_pow_sub_one_of_prime_pow_ne_two hs (fun h ↦ ?_)
+  rw [← PNat.coe_inj, coe_two, PNat.pow_coe, ← pow_one 2] at h
+  exact hodd (PNat.coe_injective (by simp [eq_of_prime_pow_eq
+    (Nat.prime_iff.1 hp.out) (Nat.prime_iff.1 Nat.prime_two) (k - s).succ_pos h]))
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:388]: This could also be
```suggestion
  apply hodd
  simp [← PNat.coe_inj, eq_of_prime_pow_eq hp.out.prime Nat.prime_two.prime (k - s).succ_pos h]
```

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 20]
```diff
@@ -331,16 +332,105 @@ theorem zeta_sub_one_prime [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
...
+lemma norm_toInteger_sub_one_of_prime_ne_two' [hcycl : IsCyclotomicExtension {p} ℚ K]
+    (hζ : IsPrimitiveRoot ζ p) (h : p ≠ 2) : Algebra.norm ℤ (hζ.toInteger - 1) = p := by
+  have : IsCyclotomicExtension {p ^ (0 + 1)} ℚ K := by simpa using hcycl
+  replace hζ : IsPrimitiveRoot ζ (p ^ (0 + 1)) := by simpa using hζ
+  exact hζ.norm_toInteger_sub_one_of_prime_ne_two h
+
+/-- The norm, relative to `ℤ`, of `ζ - 1` in a `p ^ (k + 1)`-th cyclotomic extension of `ℚ` is
+a prime if `p ^ (k  + 1) ≠ 2`. -/
+lemma prime_norm_toInteger_sub_one_of_prime_pow_ne_two [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
+    (hζ : IsPrimitiveRoot ζ ↑(p ^ (k + 1))) (htwo : p ^ (k  + 1) ≠ 2) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:409]:
```suggestion
    (hζ : IsPrimitiveRoot ζ ↑(p ^ (k + 1))) (htwo : p ^ (k + 1) ≠ 2) :
```

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean (hunk 10 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:504]: Ah yes, let's keep `two`.

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 21]
```diff
@@ -331,16 +332,104 @@ theorem zeta_sub_one_prime [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
...
+lemma norm_toInteger_pow_sub_one_of_two [IsCyclotomicExtension {2 ^ (k + 1)} ℚ K]
+    (hζ : IsPrimitiveRoot ζ ↑((2 : ℕ+) ^ (k + 1))) :
+    Algebra.norm ℤ (hζ.toInteger ^ 2 ^ k - 1) = (-2) ^ (2 : ℕ) ^ k := by
+  apply (algebraMap ℤ ℚ).injective_int
+  have : NumberField K := IsCyclotomicExtension.numberField {2 ^ (k + 1)} ℚ K
+  have : algebraMap (𝓞 K) K (hζ.toInteger ^ 2 ^ k - 1) = ζ ^ (2 : ℕ) ^ k - 1 := by
+    simp only [map_sub, map_pow, map_one, sub_left_inj, RingOfIntegers.map_mk]
+  rw [← Algebra.norm_localization (Sₘ := K) ℤ ℤ⁰, this,
+    hζ.norm_pow_sub_one_two (cyclotomic.irreducible_rat (pow_pos (by decide) _))]
+  simp only [algebraMap_int_eq, Int.reduceNeg, map_pow, map_neg, map_ofNat]
```
Comment (Vierkantor) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:376]: Maybe we should extract the following proof step into its own lemma? The only thing that I would like to add is somehow turning `hζ` into `ζ` in the new lemma, but I don't think there's a good way to do so. (I think the statement is also generalizable quite a bit, didn't put much effort in.)
```suggestion
open nonZeroDivisors in
/-- The norm of `hζ : 𝓞 K` in `ℤ` can be computed in `ℚ`. -/
lemma norm_toInteger_eq_iff [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
    (hζ : IsPrimitiveRoot ζ ↑(p ^ (k + 1))) {f : 𝓞 K → 𝓞 K} {y : ℤ} :
    Algebra.norm ℤ (f hζ.toInteger) = y ↔
      (Algebra.norm ℚ) ((algebraMap (𝓞 K) K) (f hζ.toInteger)) = ↑y := by
  have : NumberField K := IsCyclotomicExtension.numberField {p ^ (k + 1)} ℚ K
  rw [← (algebraMap ℤ ℚ).injective_int.eq_iff, ← Algebra.norm_localization (Sₘ := K) ℤ ℤ⁰,
      eq_intCast]

/-- The norm, relative to `ℤ`, of `ζ ^ p ^ s - 1` in a `p ^ (k + 1)`-th cyclotomic extension of `ℚ`
is p ^ p ^ s` if `s ≤ k` and `p ^ (k - s + 1) ≠ 2`. -/
lemma norm_toInteger_pow_sub_one_of_prime_pow_ne_two [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
    (hζ : IsPrimitiveRoot ζ ↑(p ^ (k + 1))) {s : ℕ} (hs : s ≤ k) (htwo : p ^ (k - s + 1) ≠ 2) :
    Algebra.norm ℤ (hζ.toInteger ^ (p : ℕ) ^ s - 1) = p ^ (p : ℕ) ^ s := by
  rw [norm_toInteger_eq_iff (f := fun x => x ^ (p : ℕ) ^ s - 1)]
  simp [hζ.norm_pow_sub_one_of_prime_pow_ne_two
          (cyclotomic.irreducible_rat (by simp only [PNat.pow_coe, gt_iff_lt, PNat.pos, pow_pos]))
          hs htwo]

/-- The norm, relative to `ℤ`, of `ζ ^ 2 ^ k - 1` in a `2 ^ (k + 1)`-th cyclotomic extension of `ℚ`
is `(-2) ^ 2 ^ k`. -/
lemma norm_toInteger_pow_sub_one_of_two [IsCyclotomicExtension {2 ^ (k + 1)} ℚ K]
    (hζ : IsPrimitiveRoot ζ ↑((2 : ℕ+) ^ (k + 1))) :
    Algebra.norm ℤ (hζ.toInteger ^ 2 ^ k - 1) = (-2) ^ (2 : ℕ) ^ k := by
  rw [norm_toInteger_eq_iff (f := fun x => x ^ 2 ^ k - 1)]
  simp [hζ.norm_pow_sub_one_two (cyclotomic.irreducible_rat (pow_pos (by decide) _))]
```

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 22]
```diff
@@ -331,16 +332,104 @@ theorem zeta_sub_one_prime [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
...
+/-- The norm, relative to `ℤ`, of `ζ ^ p ^ s - 1` in a `p ^ (k + 1)`-th cyclotomic extension of `ℚ`
+is `p ^ p ^ s` if `s ≤ k` and `p ≠ 2`. -/
+lemma norm_toInteger_pow_sub_one_of_prime_ne_two [IsCyclotomicExtension {p ^ (k + 1)} ℚ K]
+    (hζ : IsPrimitiveRoot ζ ↑(p ^ (k + 1))) {s : ℕ} (hs : s ≤ k) (hodd : p ≠ 2) :
+    Algebra.norm ℤ (hζ.toInteger ^ (p : ℕ) ^ s - 1) = p ^ (p : ℕ) ^ s := by
+  have coe_two : ((2 : ℕ+) : ℕ) = 2 := by norm_cast
+  refine hζ.norm_toInteger_pow_sub_one_of_prime_pow_ne_two hs (fun h ↦ ?_)
+  rw [← PNat.coe_inj, coe_two, PNat.pow_coe, ← pow_one 2] at h
+  apply hodd
+  simp [← PNat.coe_inj, eq_of_prime_pow_eq hp.out.prime Nat.prime_two.prime (k - s).succ_pos h]
```
Comment (Vierkantor) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:387]: I tried to use more general tactics so we wouldn't have to manually rewrite all the coercions. It's not a great golf but at least it's a bit less thinking.
```suggestion
  refine hζ.norm_toInteger_pow_sub_one_of_prime_pow_ne_two hs (fun h ↦ hodd ?_)
  suffices h : (p : ℕ) = 2 from PNat.coe_injective h
  apply eq_of_prime_pow_eq hp.out.prime Nat.prime_two.prime (k - s).succ_pos
  rw [pow_one]
  exact_mod_cast congr_arg Subtype.val h
```

**Review by Vierkantor — APPROVED** [review]
Code looks good overall, I just would like to try and clean up the proofs a bit more. I'll leave it to your judgement whether my proposed `norm_toInteger_eq_iff` is really an improvement.

bors d+

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean (hunk 21 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/Rat.lean:377]: `norm_toInteger_eq_iff` looks a reasonable idea, but it has nothing to do with cyclotomic fields. I will move it where it should be probably tomorrow, thanks!

**Comment by riccardobrasca** [comment]
bors merge

**Comment by riccardobrasca** [comment]
bors merge
